US08026234B2
Compound 62: (R)-4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(2-hydroxypropyl)-3-methoxybenzamide
The title compound was synthesized from 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and (S)-1-aminopropan-2-ol. The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.07 (d, J=6.1 Hz, 3H) 1.12-1.41 (m, 3H) 1.55-1.87 (m, 8H) 1.70-1.88 (m, 4H) 3.21 (q, J=6.3 Hz, 1H) 3.32 (s, 3H) 3.77 (m, 1H) 3.94 (s, 3H) 4.16 (t, J=13.0 Hz, 2H) 4.49 (quin., J=12.1 Hz, 1H) 7.53 (d, J=8.6 Hz, 1H) 7.58 (s, 1H) 8.14 (d, J=8.3 Hz, 1H) 8.23 (s, 1H) 8.41-8.47 (m, 1H) 8.51-8.57 (m, 1H). [M+H] calc'd for C25H32F2N6O4 519. found 519.

reactant | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C22H25F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (S)-1-aminopropan-2-ol | NC[C@H](C)O | C3H9NO
product | (R)-4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(2-hydroxypropyl)-3-methoxybenzamide | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC[C@@H](C)O)C=C2)OC | C25H32F2N6O4
